US07504412B2
N-(3-methyl-2-tetrahydro-3-furanylimidazo[1,2-a]pyridin-6-yl)-4-[5-(trifluoromethyl)-2-pyridyl]benzamide
Conducting the operations similar to those of Example 1 using 3-methyl-6-nitro-2-tetrahydro-3-furanylimidazo[1,2-a]pyridine and 4-[5-(trifluoromethyl)-2-pyridyl]benzenecarboxylic acid, the title compound was obtained as white solid.

reactant | 3-methyl-6-nitro-2-tetrahydro-3-furanylimidazo[1,2-a]pyridine | CC1=C(N=C2N1C=C(C=C2)[N+](=O)[O-])C2COCC2 | C12H13N3O3
reactant | 4-[5-(trifluoromethyl)-2-pyridyl]benzenecarboxylic acid | FC(C=1C=CC(=NC1)C1=CC=C(C=C1)C(=O)O)(F)F | C13H8F3NO2
product | N-(3-methyl-2-tetrahydro-3-furanylimidazo[1,2-a]pyridin-6-yl)-4-[5-(trifluoromethyl)-2-pyridyl]benzamide | CC1=C(N=C2N1C=C(C=C2)NC(C2=CC=C(C=C2)C2=NC=C(C=C2)C(F)(F)F)=O)C2COCC2 | C25H21F3N4O2
